US04670447
1-(2-Furoyl)-3-(1-methyl-4-piperidinyl)-1H-indazole hydrochloride
A mixture of 4.0 g of 3-(1-methyl-4-piperidinyl)-1H-indazole, 2.7 ml of 2-furoyl chloride (95% pure) and 60 ml of chloroform was refluxed for 3 hrs. The mixture was filtered. The filtrate was evaporated under reduced pressure, the residue was triturated and ethyl acetate and the solid was collected. The solid and filtrate were combined and recrystallized twice from ethanol to yield 3.3 g (51.5%) of product, mp 268°-270° C.

reactant | 3-(1-methyl-4-piperidinyl)-1H-indazole | 4.0 g | CN1CCC(CC1)C1=NNC2=CC=CC=C12 | C13H17N3
reactant | 2-furoyl chloride | 2.7 ml | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(2-Furoyl)-3-(1-methyl-4-piperidinyl)-1H-indazole hydrochloride | 3.3 g, 51.5% | Cl.O1C(=CC=C1)C(=O)N1N=C(C2=CC=CC=C12)C1CCN(CC1)C | InChI=1S/C18H19N3O2.ClH/c1-20-10-8-13(9-11-20)17-14-5-2-3-6-15(14)21(19-17)18(22)16-7-4-12-23-16;/h2-7,12-13H,8-11H2,1H3;1H
